US06894061B2
N-(4′-Methyl-1,1′-biphenyl-2-yl)acetamide
A stirred solution of 4′-methyl-1,1′-biphenyl-2-amine (3.09 g, 16.87 mmol) in dichloromethane was treated with acetic anhydride (1.75 mL, 18.6 mmol), pyridine (3.14 mL, 38.8 mmol), and 4-(N,N-dimethylamino)pyridine (0.062 g, 0.506 mmol). After stirring under argon for 16 hours, a saturated, aqueous, ammonium chloride solution (5 mL) was added to the reaction mixture and stirring continued another 30 minutes. The reaction mixture was poured into a 0.1 N hydrochloric acid solution. The separated aqueous phase was further extracted with dichloromethane (3×). The combined organic phase was washed sequentially with a 0.1 N hydrochloric acid solution and a saturated aqueous, sodium bicarbonate solution. After drying over anhydrous magnesium sulfate, the solvent was removed in vacuo. The crude product was purified by re-crystallization from a mixture of ethyl acetate-hexane to yield the title compound (3.17 g, 14.1 mmol, 83%) as a white, crystalline solid;

reactant | 4′-methyl-1,1′-biphenyl-2-amine | 16.87 mmol, 3.09 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)N | C13H13N
reactant | acetic anhydride | 18.6 mmol, 1.75 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 38.8 mmol, 3.14 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.506 mmol, 0.062 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | N-(4′-Methyl-1,1′-biphenyl-2-yl)acetamide | 14.1 mmol, 3.17 g, 83% | CC1=CC=C(C=C1)C1=C(C=CC=C1)NC(C)=O | C15H15NO
